US07514419B2
Compound 7-21: [2,5-Dimethyl-4-(4′-methoxy-2′-methyl-3′-iso-propylbenzyl)phenoxy]methylphosphonic acid
Intermediate 2,5-dimethyl-4-(4′-methoxy-2′-methyl-3′-iso-propyl-benzyl) phenol was prepared from 2,5-dimethyl-4-triisopropylsilanyloxy-benzaldehyde and 1-bromo-4-methoxy-2-methyl-3-iso-propylbenzene according to the procedure described in Chiellini et al., Bioorg. Med. Chem. Lett. 10:2607 (2000) and transformed into the title compound by the procedure described for the synthesis of compound 7: 1H NMR (300 MHz, DMSO-d6): δ 6.93 (s, 1H), 6.75 (d, J=8.4 Hz, 1H), 6.65 (d, J=8.4 Hz, 1H), 6.64 (s, 1H), 4.09 (d, J=9.9 Hz, 2H), 3.79 (s, 2H), 3.77 (s, 3H), 3.34 (m, 1H), 2.22 (s, 3H), 2.20 (s, 3H), 2.10 (s, 3H), 1.31 (d, J=7.2 Hz, 6H); LC-MS m/z=391 [C21H29O5P−H]−.

reactant | 2,5-dimethyl-4-triisopropylsilanyloxy-benzaldehyde | CC1=C(C=O)C=C(C(=C1)O[Si](C(C)C)(C(C)C)C(C)C)C | C18H30O2Si
reactant | 1-bromo-4-methoxy-2-methyl-3-iso-propylbenzene | BrC1=C(C(=C(C=C1)OC)C(C)C)C | C11H15BrO
product | 2,5-dimethyl-4-(4′-methoxy-2′-methyl-3′-iso-propyl-benzyl) phenol | CC1=C(C=C(C(=C1)CC1=C(C(=C(C=C1)OC)C(C)C)C)C)O | C20H26O2
